US07253286B2
4-[1-(2-Thiazolylcarbamoyl)-1H-indol-5-yloxy]-6,7-dimethoxyquinoline
After dissolving 4-(1H-indol-5-yloxy)-6,7-dimethoxyquinoline (25 mg, 0.0780 mmol) in N,N-dimethylformamide (0.4 ml), sodium hydride (6 mg) was added and the mixture was stirred at room temperature for 15 minutes. Phenyl N-(2-thiazolyl)carbamate (30 mg, 0.1362 mmol) was further added and the mixture was stirred at 80° C. for 2 hours. Water was added to the reaction solution, extraction was performed with ethyl acetate, the extract was washed with saturated brine and dried over anhydrous magnesium sulfate, and the filtrate was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography (hexane/ethyl acetate/ethanol system), the obtained crystals were suspended in ethanol and diluted with hexane, and then the crystals were filtered out, washed with hexane and dried by aspiration to obtain the title compound (23 mg, 0.0515 mmol, 66.04%) as light yellow crystals.

reactant | 4-(1H-indol-5-yloxy)-6,7-dimethoxyquinoline | 0.0780 mmol, 25 mg | N1C=CC2=CC(=CC=C12)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C19H16N2O3
reactant | sodium hydride | 6 mg | [H-].[Na+]
reactant | Phenyl N-(2-thiazolyl)carbamate | 0.1362 mmol, 30 mg | S1C(=NC=C1)NC(OC1=CC=CC=C1)=O | C10H8N2O2S
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 0.4 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[1-(2-Thiazolylcarbamoyl)-1H-indol-5-yloxy]-6,7-dimethoxyquinoline | 0.0515 mmol, 23 mg, 66.04% | S1C(=NC=C1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C23H18N4O4S
